US07442791B2
A solution of 0.137 g (0.375 mmol) of trans-4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexanecarboxylic acid in 2 mL of CH2Cl2 was treated at RT with 1 drop of DMF, followed by 0.035 mL (0.412 mmol, 1.1 eq) of oxalyl chloride within 5 min, and stirring was continued for 90 min. The solution was evaporated, redissolved in 2 mL of CH2Cl2 and treated with 0.058 mL (0.450 mmol, 1.2 eq) of N,N,N′-trimethylethylenediamine at 0° C. The reaction was kept at RT for 2 h, then partitioned between Et2O (×3)/aqueous saturated NaHCO3. The organic phases were washed once with 10% aqueous NaCl, dried over Na2SO4 and evaporated. Purification by flash-chromatography on 8 g of silica gel (CH2Cl2:MeOH 99:1 to 9:1) gave 0.088 g (53%) of pure trans-4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexanecarboxylic acid (2-dimethylamino-ethyl)-methyl-amide, MS: 450 (MH+), MP: 83° C.

reactant | trans-4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexanecarboxylic acid | 0.375 mmol, 0.137 g | CN([C@@H]1CC[C@H](CC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C15H18F3NO4S
reactant | oxalyl chloride | 0.412 mmol, 0.035 mL, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N,N′-trimethylethylenediamine | 0.450 mmol, 0.058 mL, 1.2 eq | CN(CCNC)C | C5H14N2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | trans-4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexanecarboxylic acid (2-dimethylamino-ethyl)-methyl-amide | 0.088 g, 53% | CN(CCN(C(=O)[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C)C | C20H30F3N3O3S
